US04352795
A mixture of 2.5 g of 7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine, 5 ml of acetic acid, 500 mg of 20% of palladium on charcoal, and 95 ml of methoxyethanol is hydrogenated at 50°-55° C. and approximately 3 atmospheres until uptake of hydrogen ceases. The mixture is filtered, evaporated in vacuo, and coevaporated with xylenes to provide a red syrup which is dissolved in water and treated with Amberlite ion exchange resin (20 ml of wet IR-45). The resin is filtered and washed several times with boiling water. The combined filtrates are evaporated in vacuo to provide 992 mg of crude 7-βD-arabinofuranosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine. Recrystallization of this material from water provides 800 mg of product, m.p. 117°-120° C. (after drying at 100° C. for one hour); [α]D25 =+16.2 (1.02% in H2O).

reactant | 7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 2.5 g | C(C1=CC=CC=C1)O[C@@H]1[C@@H](O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)N1C=CC2=C1N=CN=C2N | C32H32N4O4
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | methoxyethanol | 95 ml | COC(C)O | C3H8O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 500 mg | [Pd] | Pd
solvent | water | O | H2O
product | 7-βD-arabinofuranosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 992 mg | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C=CC2=C1N=CN=C2N | C11H14N4O4
